US06323235B1
2,3-dihydro-2-methoxymethoxymethyl-3-oxo-7-methoxybenzofuran
2,3-dihydro-2-hydroxymethyl-3-oxo-7-methoxybenzofuran (1.79 g) and dimethoxymethane (10 ml) were dissolved in dichloromethane (25 ml) and phosphorus pentoxide (3.47 g) was added to the obtained solution, followed by stirring the resulting solution at room temperature for 3.5 hours. The reaction mixture was added to saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layers were combined and washed with water and with saturated brine, followed by drying over magnesium sulfate. Magnesium sulfate was removed by filtration and the solvent was evaporated off. The residue was purified by column chromatography (solvent: n-hexane/ethyl acetate=1/1) to obtain the desired compound (912 mg, yield: 58%).

reactant | 2,3-dihydro-2-hydroxymethyl-3-oxo-7-methoxybenzofuran | 1.79 g | OCC1OC2=C(C1=O)C=CC=C2OC | C10H10O4
reactant | dimethoxymethane | 10 ml | COCOC | C3H8O2
reactant | phosphorus pentoxide | 3.47 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2,3-dihydro-2-methoxymethoxymethyl-3-oxo-7-methoxybenzofuran | 912 mg, yield: 58% | COCOCC1OC2=C(C1=O)C=CC=C2OC | C12H14O5
